US04061758
β-(Diethylamino)ethyl-4-benzamidopiperidine-1-carboxylate
Sodium (0.432 g., 0.0188 mole) was added to β-diethylaminoethanol (2.23 g., 0.0190 mole) in dry toluene (80 ml) and the mixture was refluxed to give a complete solution. 4-Benzamidopiperidine-1-carbonyl chloride (4.2 g., 0.01575 mole) in suspension in dry toluene (150 ml.) was added in portions and the mixture refluxed for 21/2 hours. Water was added to the mixture, the toluene layer was collected, dried and evaporated to give the title compound (3.27 g. 37%), melting point 78°-82° C.

reactant | Sodium | 0.0188 mole, 0.432 g | [Na] | Na
reactant | β-diethylaminoethanol | 0.0190 mole, 2.23 g | C(C)N(CCO)CC | C6H15NO
reactant | 4-Benzamidopiperidine-1-carbonyl chloride | 0.01575 mole, 4.2 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)C(=O)Cl | C13H15ClN2O2
reactant | Water | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | β-(Diethylamino)ethyl-4-benzamidopiperidine-1-carboxylate | 3.27 g, 37% | C(C)N(CCOC(=O)N1CCC(CC1)NC(C1=CC=CC=C1)=O)CC | C19H29N3O3
